US07872014B2
A solution of 1-[2-hydroxy-4-(4-hydroxyphenyl)napthalen-1-yl]ethanone (0.223 g, 0.8 mmol), and 35% aqueous hydrazine (0.72 mL, 8.0 mmol) in diethylene glycol (2.7 mL) was heated using a reflux condenser in a 170° C. oil bath for 12 h, then 190° C. for 2 h until 95% complete conversion was observed. The crude solution was purified directly via preparative reverse phase HPLC (CH3CN/H2O/TFA eluent) to give 0.132 g (60% yield) of 4-(1-methyl-3H-benzo[e]indazol-5-yl)phenol. 1H NMR (400 MHz, d6-DMSO): 9.62 (broad s, 1H), 8.37 (d, 1H), 7.82 (d, 1H), 7.65 (dt, 1H), 7.42 (dt, 1H), 7.39 (s, 1H), 7.30 (dd, 2H), 6.93 (s, 2H), 2.82 (s, 3H); MS (EI) for C18H14N2O: 275 (MH+).

reactant | 1-[2-hydroxy-4-(4-hydroxyphenyl)napthalen-1-yl]ethanone | 0.8 mmol, 0.223 g | OC1=C(C2=CC=CC=C2C(=C1)C1=CC=C(C=C1)O)C(C)=O | C18H14O3
reactant | hydrazine | 8.0 mmol, 0.72 mL | NN | H4N2
solvent | diethylene glycol | 2.7 mL | C(COCCO)O | C4H10O3
product | 4-(1-methyl-3H-benzo[e]indazol-5-yl)phenol | 0.132 g, 60% yield | CC1=NNC=2C=C(C3=C(C12)C=CC=C3)C3=CC=C(C=C3)O | C18H14N2O
